US06919331B2
To a cooled (0° C.) solution of [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester (51 mg, 0.088 mmol) in DCM (2 mL) was added TFA (204 μL, 2.65 mmol). The solution was allowed to reach room temperature and stirred for 6 hrs. The volatiles were removed in vacuo and the residue was stripped with methanol. The TFA salt was dissolved in methanol followed by the addition of acetyl cloride (63 μL, 0.88 mmol) and concentrated. This procedure was repeated once. The product was dissolve in methanol and DCM then concenrated (twice). The remaining solid was triturated in diethyl ether to give 1-[5-Aminomethyl-1-(4-fluoro-butyl)-1H-benzoimidazol-2-ylmethyl]-3-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione; HCl salt (45 mg, 100%) as a white solid.

reactant | [2-[2,4-dioxo-3-(2,2,2-trifluoro-ethyl)-3,4-dihydro-2H-quinazolin-1-ylmethyl]-1-(4-fluoro-butyl)-1H-benzoimidazol-5-ylmethyl]-carbamic acid tert-butyl ester | 0.088 mmol, 51 mg | C(C)(C)(C)OC(NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCF)C=C1)=O | C28H31F4N5O4
reactant | TFA | 2.65 mmol, 204 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetyl cloride | 0.88 mmol, 63 μL | C(C)(=O)Cl | C2H3ClO
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 1-[5-Aminomethyl-1-(4-fluoro-butyl)-1H-benzoimidazol-2-ylmethyl]-3-(2,2,2-trifluoro-ethyl)-1H-quinazoline-2,4-dione | NCC1=CC2=C(N(C(=N2)CN2C(N(C(C3=CC=CC=C23)=O)CC(F)(F)F)=O)CCCCF)C=C1 | C23H23F4N5O2
